US04730003
2-Methoxymethyl-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
Analogously to Example 5, 1.6 g. (5.4 mmole) 6-methoxymethylcarbonylamino-5-nitro-3,3-dimethylindolin-2-one are dissolved in 160 ml. ethanol and hydrogenated in the presence of 0.8 g. 10% palladium on charcoal at normal pressure and ambient temperature. After 360 ml. of hydrogen have been taken up, the catalyst is filtered off with suction and the filtrate is evaporated to dryness in a vacuum. The residue is purified over a silica gel column (elution agent: dichloromethane/methanol 95:5 v/v). The appropriate fractions are evaporated to dryness and the residue is recrystallised from isopropanol. There are obtained 800 mg. (60% of theory) of the title compound; m.p. 203°-205° C.

reactant | 6-methoxymethylcarbonylamino-5-nitro-3,3-dimethylindolin-2-one | 5.4 mmole | COCC(=O)NC1=C(C=C2C(C(NC2=C1)=O)(C)C)[N+](=O)[O-] | C13H15N3O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 2-Methoxymethyl-7,7-dimethyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | COCC=1NC2=C(N1)C=C1C(=C2)NC(C1(C)C)=O | C13H15N3O2
